US04659718
A solution of butyl lithium in hexane (2.5M, 20 ml) was added slowly to a stirred solution of 1,5-dimethyltetrazole (4.9 g) in dry tetrahydrofuran (100 ml) at -5° to 0° under nitrogen. After stirring for 0.5 hour, 7-methyl-1H-3,1-benzoxazine-2,4-dione (2.6 g) was added and stirring continued for 1.5 hours at room temperature and for 3 hours at 40°. The solvent was evaporated under reduced pressure at 40°-50°, water (100 ml) was added to the residue, followed by 5N hydrochloric acid dropwise until neutral to Universal pH paper. The mixture was extracted with ethyl acetate (3×50 ml) and the combined extracts were washed with 10% aqueous potassium carbonate solution (50 ml), dried over anhydrous magnesium sulphate and then evaporated under reduced pressure at 50°. The residue was triturated with ether to give a solid product which was collected by filtration and recrystallised from ethyl acetate to give the novel compound 1-(2-amino-4-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone, m.p. 155°-6°.

reactant | butyl lithium | C(CCC)[Li]
reactant | 1,5-dimethyltetrazole | 4.9 g | CN1N=NN=C1C | C3H6N4
reactant | 7-methyl-1H-3,1-benzoxazine-2,4-dione | 2.6 g | CC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C9H7NO3
solvent | hexane | 2.5M, 20 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(2-amino-4-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone | NC1=C(C=CC(=C1)C)C(CC1=NN=NN1C)=O | C11H13N5O
